Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
T-tube cannula exchange
 
Major Surgical or Invasive Procedure:
___: flexible bronchoscopy with exchange of cannula for 
t-tube

 
History of Present Illness:
___ with asthma/COPD not on home oxygen, OSA on nocturnal CPAP, 
HTN, DMT2 and severe tracheobronchomalacia who is s/p 
tracheobronchoplasty  
 on ___ with chronic respiratory failure in setting of 
organizing pneumonia. Due to severe cervical malacia she is s/p 
trach and transition to ___ cannula who presented with 
worsening dyspnea and cough and underwent cannula exchange for 
t-tube. Procedure was performed without complication and she is 
admitted to the medical service for overnight monitoring.  
 Upon arrival to the floor, patient confirms the above history. 
Her cough is much improved following the procedure after 
receiving codeine.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI 
 
Past Medical History:
Tracheobronchomalacia s/p TBP ___  
 Organizing pneumonia on prednisone taper  
 HTN  
 Hypercholesterolemia  
 COPD/asthma  
 Moderate obstructive sleep apnea (AHI 29)  
 DMT2  
 GERD  
 RUE DVT ___, off coumadin  
 Rheumatoid arthritis  
 Restless leg syndrome  
 Depression  
 Polysubstance abuse - Clonazepam, Vicodin, Percocet - s/p  
 inpatient detox  

 
Social History:
___
Family History:
Mother: Lung cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================== 
Vital Signs: 98.1 116/70 76 18 94 ra  
General: Adult female in NAD  
HEENT: Sclerae anicteric, MMM, tracheostomy tube in place, 
minimal dried blood, PERRL.  
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
Lungs: Diffuse harsh wheezes bilaterally  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: WWP without edmea  
Neuro: CNII-XII intact, moving all ext

DISCHARGE PHYSICAL EXAM:
========================
Vital Signs: 97.9 148/84 (107-148/67-84) 96 (76-96) ___ 
92-94%RA  
General: Well-appearing, comfortable, sitting up in bed, 
watching television. 
HEENT: Sclerae anicteric, MMM, tracheostomy tube in place, 
minimal dried blood, PERRL.  
CV: Normal rate and regular rhythm. Normal S1/S2, no murmurs, 
rubs, gallops.  
Lungs: No stridor. Diffuse harsh wheezes bilaterally. No 
crackles, rhonchi.   
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: 2+ radial/DP pulses bilaterally. No clubbing, cyanosis, or 
edema.  
Neuro: CNII-XII grossly intact. sensation intact to light touch. 
moving all extremities.
Mental status: A&Ox3
 
Pertinent Results:
ADMISSION LABS: 
===============
none. 

MICROBIOLLOGY:
==============
none. 

IMAGING:
========
CT Chest w/o contrast (___):
FINDINGS:  
Tracheostomy tube is in standard position. 
Soft tissue posterior to the right main bronchus and in a short 
segment 
adjacent to the esophagus to the right just below the carina is 
stable.  There is no air in the mediastinum. 
The thyroid is normal. Supraclavicular, axillary, mediastinal 
and hilar lymph nodes are not enlarged. Aorta and pulmonary 
arteries are normal size. Cardiac configuration is normal and 
there is minimal calcification in the LAD.  There is no pleural 
or pericardial effusion. 
There are multifocal platelike atelectasis largest is located in 
the right 
lower lobe.  There is air trapping worse in the right middle 
lobe.  There are few scattered calcified granulomas.  There are 
no worrisome lung nodules.  There is mild bronchiectasis in the 
lower lobes.  Diffuse bilateral multifocal ground-glass 
opacities some in geographic distribution have improved from 
prior study. 
Narrowing of the bronchus intermedius, right middle lobe, right 
lower lobe and less so in the right upper lobe bronchi is 
stable. 
This examination is not tailored for subdiaphragmatic evaluation 
there is 
fatty infiltration of the liver. 
Elevation of the right hemidiaphragm is again noted. 
There are no bone findings of malignancy 
IMPRESSION:  
Continue improving of multifocal ground-glass opacities 
consistent with 
resolving inflammatory process. Persisting air trapping worse in 
the right middle lobe Fatty liver No worrisome lung nodules 
identified.  Tracheostomy tube is in standard position. 

PATHOLOGY:
==========
Bronchial biopsy (___): pending

DISCHARGE AND PERTINENT LABS:
=============================
None.

 
Brief Hospital Course:
___ with asthma/COPD not on home oxygen, OSA on nocturnal CPAP, 
HTN, DMT2 and severe tracheobronchomalacia who is s/p 
tracheobronchoplasty on ___ with chronic respiratory failure 
in the setting of organizing pneumonia. Due to severe cervical 
malacia she is s/p trach and transition to ___ cannula 
who presented with worsening dyspnea and cough and underwent 
underwent flexible bronchoscopy with exchange of cannula for 
t-tube. Procedure was performed without complication on ___ and 
she was admitted to medicine for overnight monitoring. 
 
# Tracheobronchomalacia  
# COPD/asthma (not on home O2): 
Patient was admitted to medicine for overnight monitoring s/p 
uncomplicated flexible bronchoscopy with exchange of cannula for 
T-tube with interventional pulmonology following presentation 
for worsening dyspnea and cough. Bronchial biopsy was obtained, 
with pathology results pending at the time of discharge. CT 
chest non-contrast demonstrated optimal placement of her T-tube. 
Following procedure, patient was kept on continuous O2 
overnight, which was discontinued in the AM, with patient 
satting in the mid-90s on RA. Patient was given a flutter valve 
to use BID. She was also treated with codeine, mucomyst nebs, 
mucinex, and duonebs with improvement in her cough. She was also 
continued on her home fluticasone, prednisone 10mg ___, home 
Sulfamethoxazole/Trimethoprim SS 1 TAB PO ___ prophylaxis, and 
Clotrimazole 1 TROC PO QID. Patient had ambulatory sats 94-96% 
and was asymptomatic without dyspnea, cough, or chest pain while 
walking on ___ AM prior to discharge.  

Patient had teaching with respiratory therapist and with 
Interventional Pulmonologist regarding instructions for t-tube 
care, which are described below: 

Instructions for t-tube care:
 1. Mucinex ___ by mouth twice a day (take one tablet at 8am,
one tablet at 8 pm)  
 2. Please use albuterol nebulizer (2.5 mg) nebulizer twice a 
day
before you use Mucomyst. Please give yourself treatment at 7am
and 7pm.  
 3. Mucomyst (N-acetylcysteine) 10% solution - you can use this
undiluted. Use 6 to 10 mL of 10% solution until nebulized given 
2
times/day. Please give yourself treatment at 7:30am and 7:30pm
(ideally, ___ minutes after you use albuterol nebulizer).  
 4. Right after nebulizer treatment with Mucomyst, please use
___ of Saline into t-tube, then suction above and below.  
 5. Please clean the external opening of the t-tube with an 
extra
LONG q-tip in order to maintain patency. 
6. Flutter valve BID

----------------
 CHRONIC ISSUES
----------------  
# Hyperlipidemia: Patient was continued on her home Atorvastatin 
80 mg PO QPM and Aspirin 81 mg PO ___.   

# Hypertension: Patient was continued on her home Clonidine 0.2 
mg PO Q6H, Diltiazem ER 300 mg PO ___, Chlorthalidone 25 mg PO 
___, and Metoprolol Succinate XL 25 mg PO ___  

# Depression: Patient was continued on her home Buspirone 15 mg 
PO BID, Clonazepam 0.5 mg PO TID, fluoxetine 60 mg PO ___, and 
quetiapine fumarate 100 mg PO QHS. 
  
# Gastroesophageal reflux disease: Patient was continued on her 
home Omeprazole 40 mg PO ___. 
  
# Type 2 Diabetes mellitus: Patient's home glimepiride PO 2mg 
QAM was held while in-house and patient was maintained on house 
insulin sliding scale. Glimepiride was restarted for discharge.  


TRANSITIONAL:
=============
- Bronchial biopsy (___) results are pending at the time of 
discharge. 
- Interventional pulmonology service will call patient to 
schedule a six week follow-up appointment. Patient should 
contact them at ___ if she has not heard from them by 
___.
 
- Instructions for t-tube care that were provided to the 
patient:
 1. Mucinex ___ by mouth twice a day (take one tablet at 8am,
one tablet at 8 pm)  
 2. Please use albuterol nebulizer (2.5 mg) nebulizer twice a 
day
before you use Mucomyst. Please give yourself treatment at 7am
and 7pm.  
 3. Mucomyst (N-acetylcysteine) 10% solution - you can use this
undiluted. Use 6 to 10 mL of 10% solution until nebulized given 
2
times/day. Please give yourself treatment at 7:30am and 7:30pm
(ideally, ___ minutes after you use albuterol nebulizer).  
 4. Right after nebulizer treatment with Mucomyst, please use
___ of Saline into t-tube, then suction above and below.  
 5. Please clean the external opening of the t-tube with an 
extra
LONG q-tip in order to maintain patency. 
6. Flutter valve BID

-CODE: full (confirmed)  
-CONTACT/HCP: ___, sister, ___  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Atorvastatin 80 mg PO QPM 
3. BusPIRone 15 mg PO BID 
4. ClonazePAM 0.5 mg PO TID 
5. CloNIDine 0.2 mg PO Q6H 
6. Diltiazem Extended-Release 300 mg PO ___ 
7. FLUoxetine 60 mg PO ___ 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Omeprazole 40 mg PO ___ 
10. PredniSONE 10 mg PO ___ 
11. Sulfameth/Trimethoprim SS 1 TAB PO ___ prophylaxis on 
prednisone 
12. QUEtiapine Fumarate 100 mg PO QHS 
13. glimepiride 2 mg oral QAM 
14. Tiotropium Bromide 1 CAP IH ___ 
15. Aspirin 81 mg PO ___ 
16. Clotrimazole 1 TROC PO QID 
17. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
18. Chlorthalidone 25 mg PO ___ 
19. Metoprolol Succinate XL 25 mg PO ___ 

 
Discharge Medications:
1.  Acetylcysteine 20% ___ mL NEB Q4H:PRN SOB 
RX *acetylcysteine 100 mg/mL (10 %) ___ of 10% solution until 
nebulized BID- ___ ___ Disp #*30 Vial Refills:*0 
2.  Codeine Sulfate ___ mg PO Q6H:PRN cough 
RX *codeine sulfate 15 mg 1 tablet(s) by mouth qh:prn cough Disp 
#*20 Tablet Refills:*0 
3.  GuaiFENesin ER 1200 mg PO Q12H 
RX *guaifenesin 1,200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
4.  PredniSONE 10 mg PO ___  
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
6.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
Please also use ___ before each Mucomyst 
(N-acetylcysteine) nebulizer treatment.   
7.  Aspirin 81 mg PO ___  
8.  Atorvastatin 80 mg PO QPM  
9.  BusPIRone 15 mg PO BID  
10.  Chlorthalidone 25 mg PO ___  
11.  ClonazePAM 0.5 mg PO TID  
12.  CloNIDine 0.2 mg PO Q6H  
13.  Clotrimazole 1 TROC PO QID  
14.  Diltiazem Extended-Release 300 mg PO ___  
15.  FLUoxetine 60 mg PO ___  
16.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
17.  glimepiride 2 mg oral QAM  
18.  Metoprolol Succinate XL 25 mg PO ___  
19.  Omeprazole 40 mg PO ___  
20.  QUEtiapine Fumarate 100 mg PO QHS  
21.  Sulfameth/Trimethoprim SS 1 TAB PO ___ prophylaxis on 
prednisone  
22.  Tiotropium Bromide 1 CAP IH ___  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Tracheobronchomalacia
COPD
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you!

Why you were admitted:
- You were admitted with shortness of breath and cough. 

What we did for you:
- You had a flexible bronchoscopy with exchange of cannula for 
t-tube with interventional pulmonology.
- You had teaching with interventional pulmonology and 
respiratory therapy regarding t-tube care.  

What you should do when you go home:
- Please take all of your medications as directed. 
- Please keep you all of your follow-up appointments.  
- You have an appointment at Dr. ___ PCP) office on 
___ at 11:30 AM (ph#: ___
- The interventional pulmonology service will call you to 
schedule a six week follow-up appointment. You should contact 
them at ___ if you have not heard from them by 
___.

- Instructions for t-tube care: 
 1. Mucinex ___ by mouth twice a day (take one tablet at 8am,
one tablet at 8 pm)  
 2. Please use albuterol nebulizer (2.5 mg) nebulizer twice a 
day
before you use Mucomyst. Please give yourself treatment at 7am
and 7pm.  
 3. Mucomyst (N-acetylcysteine) 10% solution - you can use this
undiluted. Use 6 to 10 mL of 10% solution until nebulized given 
2
times/day. Please give yourself treatment at 7:30am and 7:30pm
(ideally, ___ minutes after you use albuterol nebulizer).  
 4. Right after nebulizer treatment with Mucomyst, please use
___ of Saline into t-tube, then suction above and below.  
 5. Please clean the external opening of the t-tube with an 
extra
LONG q-tip in order to maintain patency. 
6. Flutter valve BID

We wish you the best of health!
You ___ Medicine Care Team
 
Followup Instructions:
___